Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Augmentin / macadamia nut oil
 
Attending: ___.
 
Chief Complaint:
rectal pain 
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
___ gentleman w hx hemorrhoids, OSA on CPAP, prolactinoma, HDL,
gout, presented to ED w excruciating rectal pain after bowel
movements, found to have a ___ ?phlegmon, admitted for
pain control and possibly abx.  

Pt has extensive history of hemorrhoids that have been 
previously
managed with diet and stool softeners. Started metformin in
___ with subsequent intermittent diarrhea and constipation
which aggravated hemorrhoid sx. Two weeks ago had a remarkably
hard bowel movement that was followed by intermittent hemorrhoid
pain managed with typical regimen until 7 days ago when he had
notes ___ burning rectal pain lasting for hours. Relief was
attained with Tylenol taken around the clock and up-titration of
stool softeners now taken bid. Patient trialed on topical
nitroglycerine and lidocaine without relief. Following PCP
appointment three days prior to presentation, pain was 
tolerable.
However, on afternoon of presentation, after a ___ patient has 
had
unbearable breakthrough pain which brought him to the ED for
further evaluation. No recent fever, chills, lightheadedness,
chest pain, sob, abdominal pain, melena, weight loss, night
sweats. Has noted some BRBPR spotting after BMs, but in typical
pattern of his past hemorrhoids and not increased in
frequently/amount. No blood clots or maroon stools. Last
colonoscopy was at age ___, found benign polyps, due for repeat 
at
age ___. 

In the ED, initial vitals: 97 69 167/94 13 96% RA 

- Exam notable for: 
Gen: uncomfortable appearing male, NAD
CV/Resp: ctab, nsr
Abd: s, nt, nd, nr, ng
Rectal: anal sphincter with 1-2cm external hemorrhoid along L
hemisphere (mildly tender to palpation), no erythema, 
exquisitely
tender to light palpation of internal rectal cavity, no blood 

- Labs notable for: normal BMP and CBC, INR 1.2 w normal ___

- Imaging notable for:  
CT PELVIS W CON (PRELIM READ) 
1. Near the anal verge 6 o'clock there is a 8 mm rim enhancing
fluid collection without surrounding inflammation which could
represent a tiny abscess or hemorrhoid. Correlation with 
physical
exam recommended. 
2. No free fluid or abscess in the pelvis. 
3. 10 mm non obstructive stone in the lower pole of the right
kidney. 

- Pt given: PO morphine sulfate ___ 15mg x1

- Vitals prior to transfer: 97.8 56 130/80 20 97% RA  

On the floor, patient gives the above history. 

REVIEW OF SYSTEMS: Per HPI. 

 
Past Medical History:
- OSA on CPAP (since ___
- HLD
- Gout
- Pre-DM (A1c 5.9% in ___ 
-Pituitary adenoma: Patient in ___ had problems with low 
libido.
He had low testosterone.  As part of her workup had a prolactin
level done on ___ it was 48.7.  He was placed on 
cabergoline
once weekly.  He had an MRI of the brain below showing a small 8
mm adenoma.  Subsequent prolactin levels ___ was 9.6. 
___ was 5.3.  ___ was 5.  ___ was 10.2.  He
was recently taken off his medication and has had a decrease in
libido.  He had no side effects on the medication.  Subsequent
MRI showed no change in the size of the adenoma.
 
Social History:
___
Family History:
Father: died age ___ from PNA, CVA at age ___  
Mother: died at age ___ from cerebral hemorrhage (on warfarin for
for MVR)
5 siblings are well

 
Physical Exam:
ADMISSION PHYSICAL EXAM: 
VITALS: T: 98.3 PO BP: 148/93 HR: 59 RR: 18 O2 sat: 98% RA
General: NAD, overweight, friendly
HEENT: sclerae anicteric, MMM, OP clear 
CV: rrr no mrg 
Lungs: ctabl, no wheezes, crackles, or rhonchi, nl wob on RA
Abdomen: soft, obese, NTND, no rebound or guarding 
GU: No foley  
Rectal: deferred as already document in the ED several hours
prior
Ext: wwp, no edema or cyanosis 
Neuro: AOx3, face symmetric, moving all extremities w purpose

DISCHARGE PHYSICAL EXAM: 
VITALS: see POE
General: NAD, frustrated
HEENT: sclerae anicteric, MMM
CV: rrr no mrg 
Lungs: ctabl, no wheezes, crackles, or rhonchi, nl wob on RA
Abdomen: soft, obese, NTND, no rebound or guarding 
Ext: wwp, no edema or cyanosis 
Neuro: AOx3, face symmetric, moving all extremities w purpose

 
Pertinent Results:
LABS: 
___ 11:13PM BLOOD WBC-7.7 RBC-4.46* Hgb-14.9 Hct-43.4 
MCV-97 MCH-33.4* MCHC-34.3 RDW-12.5 RDWSD-44.6 Plt ___
___ 11:13PM BLOOD Neuts-63.4 ___ Monos-9.8 Eos-3.6 
Baso-0.6 Im ___ AbsNeut-4.89 AbsLymp-1.71 AbsMono-0.76 
AbsEos-0.28 AbsBaso-0.05
___ 11:13PM BLOOD ___ PTT-32.6 ___
___ 11:13PM BLOOD Glucose-88 UreaN-18 Creat-1.0 Na-139 
K-4.4 Cl-102 HCO3-23 AnGap-14

CT PELVIS W CON: 
1. Near the anal verge 6 o'clock there is a subcentimeter rim 
enhancing lesion without surrounding inflammation of unclear 
etiology, possibly a tiny abscess or hemorrhoid.  Correlation 
with physical exam recommended. 
2. No free fluid or abscess in the pelvis. 
3. 10 mm non obstructive stone in the lower pole of the right 
kidney. 
 
Brief Hospital Course:
___ gentleman w hx hemorrhoids, OSA on CPAP, prolactinoma, HDL, 
gout, presented to ED w excruciating rectal pain after bowel 
movements, found to have a ___ lesion on imaging, admitted 
for pain control.  

ACUTE/ACTIVE PROBLEMS
# Rectal pain
# ___ sub-cm lesion (abscess vs hemorrhoid) 
Patient w known hemorrhoids in the past, however due to 
constipation recently, has been straining and developed 
excruciating rectal pain after BMs. Minimal bleeding, up to date 
on colonoscopies. Imaging ___ read) c/f 8mm ___ 
phlegmon vs necrotic, thrombosed hemorrhoid. While in-house, pt 
had soft BM without any subsequent pain. Consulted colorectal 
surgery who examined patient and reviewed imaging and did not 
feel acute surgical intervention warranted. Per their 
recommendations, patient will be discharged home to follow-up in 
clinic w Dr. ___. CRS did not feel abx were warranted, which 
given the very small size and unclear etiology of the lesion, as 
well as lack of any systemic infectious symptoms/signs, is 
logical step for now. CRS recommended: tablespoon Metamucil 
daily, OTC Pramoxine without steroids, increase fiber and fluid 
intake, and ___ baths 3x/day. He is to discontinue his nitro 
and lidocaine creams. Will discharge w oxycodone 5mg Q6H PRN for 
pain not covered by Tylenol. 

CHRONIC/STABLE PROBLEMS
# Gout - cont home allopurinol.   
# HLD - cont home atorvastatin. 
# OSA - cont home CPAP.

TRANSITIONAL ISSUES
[] ___ in colorectal surgery clinic w Dr. ___ week. 
[] Incidental finding: 10 mm non obstructive stone in the lower 
pole of the right kidney. 
[] Last A1c reportedly 5.9% in ___, should re-check to assess 
need for anti-hyperglycemic medications esp given negative side 
effects of metformin. 
[] Would not recommend continuing metformin. 
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Allopurinol ___ mg PO DAILY 
2. Atorvastatin 20 mg PO QPM 
3. Rectiv (nitroglycerin) 0.4 % (w/w) rectal ASDIR 
4. cabergoline 0.5 mg oral 1X/WEEK 
5. Lidocaine 5% Ointment 1 Appl TP Q6H:PRN rectal pain 
6. Vitamin D 1000 UNIT PO DAILY 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H  
2.  Docusate Sodium 200 mg PO BID  
3.  OxyCODONE (Immediate Release) 5 mg PO Q6H:PRN BREAKTHROUGH 
PAIN 
do not take w alcohol, other sedatives, or while 
driving/operating machinery.  
RX *oxycodone 5 mg 1 tablet(s) by mouth every six (6) hours Disp 
#*10 Tablet Refills:*0 
4.  pramoxine-zinc oxide ___ % topical ASDIR 
apply to affected area 4x/day as needed for pain  
5.  Psyllium Powder 1 PKT PO DAILY 
take one tablespoon daily   
6.  Allopurinol ___ mg PO DAILY  
7.  Atorvastatin 20 mg PO QPM  
8.  cabergoline 0.5 mg oral 1X/WEEK  
9.  Vitamin D 1000 UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
___ lesion (abscess vs thrombosed hemorrhoid) 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,  

It was a pleasure caring for you at ___.  

WHY WERE YOU IN THE HOSPITAL?  
- You were admitted to the hospital for rectal pain control and 
further evaluation. 

WHAT HAPPENED WHEN YOU WERE IN THE HOSPITAL?  
- You had a scan which showed a small lesion near your rectum 
that is likely the source of your pain. The lesion was very 
small so we were unable to tell if it is an abscess or a 
hemorrhoid with a thrombosis (blood clot) in it. 
- You were seen by the colorectal surgeons who did not feel you 
needed antibiotics or any immediate surgical intervention but 
would like you to follow-up in their clinic this coming week. 
- You were discharge on pain medication in case you continue to 
have episodes of intense pain that does not respond to Tylenol. 
Try to use these sparingly as they can worsen constipation. 

WHAT SHOULD YOU DO AFTER YOU LEAVE THE HOSPITAL?  
- Continue to take all your medicines as prescribed below. 
- Make your appointments as listed below.
- Follow these instructions from the colorectal surgeons: 
   - Purchase Pramoxine (without steroids) from your pharmacy 
and apply several times a day. 
   - Do not use your nitro or lidocaine creams. 
   - Take a tablespoon of Metamucil every day. 
   - Continue to take your stool softener at home. 
   - Eat foods high in fiber and drink plenty of water to help 
keep your stool soft. 

We wish you the best!  

Sincerely,  

Your ___ Team

 
Followup Instructions:
___